US08877739B2
Synthesis of 2,5-dichloro-3-(L-γ-glutamylamino)benzoic acid (Compound No. 24)
To 110 mg (0.5 mmol) of methyl 2,5-dichloro-3-aminobenzoate were added 190 mg (0.5 mmol) of HATU, 70 mg (0.5 mmol) of HOAt, 152 mg (0.5 mmol) of Boc-Glu-OtBu hydrochloride, 0.21 ml (1.5 mmol) of triethylamine and 2 ml of dichloromethane. The mixture was stirred at room temperature overnight.

reactant | methyl 2,5-dichloro-3-aminobenzoate | 0.5 mmol, 110 mg | ClC1=C(C(=O)OC)C=C(C=C1N)Cl | C8H7Cl2NO2
reactant | HATU | 0.5 mmol, 190 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAt | 0.5 mmol, 70 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | Boc-Glu-OtBu hydrochloride | 0.5 mmol, 152 mg | N([C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C.Cl
reactant | triethylamine | 1.5 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2,5-dichloro-3-(L-γ-glutamylamino)benzoic acid | ClC1=C(C(=O)O)C=C(C=C1NC(CC[C@H](N)C(=O)O)=O)Cl | C12H12Cl2N2O5
